US04652405
A mixture of 0.19 g. (0.00027 mole) of [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol, 1 ml. of pyridine and 0.104 g. (0.00054 mole) of p-toluenesulfonyl chloride was stirred at 0° C. for 18 hr. The mixture was quenched with ice chips. The mixture was then poured into water and extracted with methylene chloride. The organic phase was washed with 10% aqueous sulfuric acid and saturated aqueous sodium bicarbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered, and evaporated to dryness to yield oily [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate).

reactant | [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol | 0.00027 mole | O1C(CCCC1)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CC[C@@H](C(C)(C)OC(C)OCC)F)CO)[C@]4(CC[C@@H]3[C@@]12C)C)OC1OCCCC1 | C41H69FO7
reactant | p-toluenesulfonyl chloride | 0.00054 mole | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | [1α,3β,24S]-1,3-bis[(tetrahydro-2H-pyran-2-yl)oxy]-25-(1-ethoxyethoxy)-24-fluorocholest-5-en-21-ol 21-(4-methylbenzenesulfonate) | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](CC[C@@H](C(C)(C)OC(C)OCC)F)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC1OCCCC1)OC1OCCCC1 | C48H75FO9S
